US07276516B2
3-(4-Methyl-piperazin-1-yl)-1H-indole
Following a method similar to 3-morpholin-4-yl-1H-indole using 3-(4-Methyl-piperazin-1-yl)-1-triisopropylsilanyl-1H-indole (0.35 g, 0.94 mmol) and 1N solution of tetrabutylammonium fluoride (1.40 mL) to prepare the title compound. Purify by flash chromatography using 2 to 12% methanol in dichloromethane to give the title compound (0.12 g 60%). MS (ES) 216.1 (M+1)+.

reactant | 3-morpholin-4-yl-1H-indole | N1(CCOCC1)C1=CNC2=CC=CC=C12 | C12H14N2O
reactant | 3-(4-Methyl-piperazin-1-yl)-1-triisopropylsilanyl-1H-indole | 0.94 mmol, 0.35 g | CN1CCN(CC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C22H37N3Si
reactant | tetrabutylammonium fluoride | 1.40 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 3-(4-Methyl-piperazin-1-yl)-1H-indole | CN1CCN(CC1)C1=CNC2=CC=CC=C12 | C13H17N3
